US07511059B2
2-(2-Methoxy-ethoxy)-N-(3-nitro-phenyl)-acetamide
5 g of (2-methoxyethoxy)-acetic acid is dissolved in 500 ml of tetrahydrofuran. 9.7 ml of triethylamine and 5.6 ml of isobutyl chloroformate are added at 0° C., and it is stirred for 30 minutes at 0° C. 5.0 g of 3-nitroaniline is added, and it is stirred for another 15 hours at room temperature. The reaction mixture is mixed with semi-saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic solution is washed with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation and, after purification by chromatography on silica gel, 7.5 g of the title compound is obtained.

reactant | (2-methoxyethoxy)-acetic acid | 5 g | COCCOCC(=O)O | C5H10O4
reactant | isobutyl chloroformate | 5.6 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-nitroaniline | 5.0 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 9.7 ml | C(C)N(CC)CC | C6H15N
product | 2-(2-Methoxy-ethoxy)-N-(3-nitro-phenyl)-acetamide | 7.5 g | COCCOCC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C11H14N2O5
